* E:\Documents\Development\Avalon\Electrical\Release Mechanism\Ultrasonic Transducer Transmitter Circuit.asc
Q1 N007 N010 0 0 BC817-25
Q2 N006 N009 0 0 BC817-25
Q3 N007 N004 N001 0 PNP
Q4 N006 N003 N001 0 PNP
R1 N001 N002 1K
R2 N001 N002 1K
R3 N005 N004 1.5K
R4 N005 N010 1.5K
Q5 N002 N008 0 0 BC817-25
R5 N003 N002 1.5K
R6 N009 N002 1.5K
V1 N001 0 12
V2 N005 0 PULSE(0 5 0u 0.1u 0.1u 12.5u 25u)
C1 N007 N006 2500p
R7 N005 N008 1.5K
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sam\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10m 0
.backanno
.end
